US06846819B1
a) N-(1,3-Dimethyl-1H-indol-2-ylmethyl)-N-methylacrylamide
To a stirred solution of 1,3-dimethyl-2-(methylaminomethyl)indole (1.5 g, 8 mmole), from Preparation 40, and Et3N (1.12 mL, 8 mmole) in CH2Cl2 (75 mL) at 0° C. was added acryloyl chloride (0.65 mL, 8 mmole) dropwise over 5 minutes. The reaction was stirred at 0° C. for 1 hr then was poured into ice water. The organic phase was separated, washed with brine, dried (MgSO4), and concentrated to dryness to give the title compound (1.7 g, 90%) as a yellow oil. This was used without further purification: TLC silica gel (50% EtOAc/hexanes) Rf=0.41.

reactant | 1,3-dimethyl-2-(methylaminomethyl)indole | 8 mmole, 1.5 g | CN1C(=C(C2=CC=CC=C12)C)CNC | C12H16N2
reactant | Et3N | 8 mmole, 1.12 mL | CCN(CC)CC | C6H15N
reactant | acryloyl chloride | 8 mmole, 0.65 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
product | N-(1,3-Dimethyl-1H-indol-2-ylmethyl)-N-methylacrylamide | 1.7 g, 90% | CN1C(=C(C2=CC=CC=C12)C)CN(C(C=C)=O)C | C15H18N2O
